US08669249B2
4-Methylene-1-phenylpiperidine (389A)
In a 50 mL round bottom flask, methyltriphenylphosphonium iodide (1.384 g, 3.42 mmol) was suspended in THF (10.0 mL) and cooled to 0° C. N-Butyllithium (1.370 mL, 3.42 mmol) was added drop-wise and the resulting yellow suspension was stirred at 0° C. for 30 min. A solution of 1-phenylpiperidin-4-one (0.500 g, 2.85 mmol) in THF (5.0 mL) was added drop-wise and the orange, yellow suspension was then allowed to slowly warm to 23° C. over 2 hr. The reaction mixture was quenched with sat. NH4Cl (30 mL), the aq. layer was extracted with EtOAc (2×50 mL) and the combined organic extracts were washed with brine (30 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude yellow oil was purified by flash chromatography (EtOAc:Hex, 1:9 isocratic) affording the title compound as a clear, light yellow oil (0.0906 g, 18.33% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.14-2.39 (m, 4H) 3.12-3.29 (m, 4 H) 4.74 (s, 2H) 6.64-6.85 (m, 1H) 6.87-7.07 (m, 2H) 7.08-7.29 (m, 2H). ESI-MS: m/z 174.1 (M+H)+.

reactant | methyltriphenylphosphonium iodide | 3.42 mmol, 1.384 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N-Butyllithium | 3.42 mmol, 1.370 mL | [Li+].CCC[CH2-]
reactant | 1-phenylpiperidin-4-one | 2.85 mmol, 0.500 g | C1(=CC=CC=C1)N1CCC(CC1)=O | C11H13NO
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-Methylene-1-phenylpiperidine | C=C1CCN(CC1)C1=CC=CC=C1 | C12H15N
